US07153855B2
To a solution of N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-{3-[(diphenylmethylene)amino]phenyl}-pyrazolo[1,5-a]pyridin-7-amine (2.61 g, 4.22 mmol) in tetrahydrofuran (30 mL) at 0° C. was added 4N hydrochloric acid (20 mL) dropwise. Subsequently, the reaction mixture was stirred for 5 minutes. The reaction mixture was diluted with ether, then saturated aqueous bicarbonate was added slowly till the ether layer turned clear. The resulting mixture was stirred for 30 minutes. The phases were separated, the organic phase was washed with water, brine and dried (magnesium sulfate). Filtration and concentration of the filtrate to a solid, followed by recrystallization from ethyl acetate-hexanes, gave 2-(3-aminophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (1.78 g, 93%) as a pale yellow solid. 1H NMR (CDCl3): δ 7.92 (d, 1H), 7.82 (d, 1H), 7.32 (t, 1H), 7.22 (m, 2H), 7.00–6.94 (m, 2H), 6.78 (m, 1H), 6.34 (d, 1H), 6.04 (m, 2H), 4.38 (m, 1H), 4.00 (m, 1H), 3.75 (broad, 2H), 2.14–2.05 (m, 4H), 1.83–1.54 (m, 12H); MS m/z 454 (M+1).

reactant | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-{3-[(diphenylmethylene)amino]phenyl}-pyrazolo[1,5-a]pyridin-7-amine | 4.22 mmol, 2.61 g | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC(=CC=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C40H39N7
reactant | hydrochloric acid | 4N, 20 mL | Cl | ClH
reactant | bicarbonate | C([O-])(O)=O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-(3-aminophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 1.78 g, 93% | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H31N7
